US07531532B2
4-(4-Amino-3-methylphenoxy)pyridin-2-ylamine
To a solution of 4-(3-methyl-4-nitrophenoxy)pyridin-2-ylamine (1.64 g, 6.69 mmol) in methanol (75 ml) was added 10% palladium carbon (300 mg), followed by stirring under a hydrogen atmosphere at room temperature 14.5 hrs. The reaction mixture was filtered to remove the catalyst. The filtrate was concentrated under a reduced pressure to give a residue, which was purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:2, ethyl acetate, then ethyl acetate:methanol=20:1 to 10:1) to provide the titled compound (765 mg, 53.1%) as a brown solid.

reactant | 4-(3-methyl-4-nitrophenoxy)pyridin-2-ylamine | 6.69 mmol, 1.64 g | CC=1C=C(OC2=CC(=NC=C2)N)C=CC1[N+](=O)[O-] | C12H11N3O3
solvent | methanol | 75 ml | CO | CH4O
catalyst | palladium carbon | 300 mg | [C].[Pd]
product | 4-(4-Amino-3-methylphenoxy)pyridin-2-ylamine | 765 mg, 53.1% | NC1=C(C=C(OC2=CC(=NC=C2)N)C=C1)C | C12H13N3O
